US04505907
4-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzamide
To 45.0 g. (0.16 mole) of 4-[1-(α-methylbenzyl)-3-azetidinyloxy]benzonitrile in 500 ml of t-butyl alcohol was added 45.0 g. of finely ground potassium hydroxide. The mixture was stirred and refluxed for 30 minutes. Ice and water were added and a thick white solid separated. The solid was recrystallized from toluene to give 30.0 g. (63%) of product melting at 174°-178° C.

reactant | 4-[1-(α-methylbenzyl)-3-azetidinyloxy]benzonitrile | 0.16 mole | CC(C1=CC=CC=C1)N1CC(C1)OC1=CC=C(C#N)C=C1 | C18H18N2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
solvent | t-butyl alcohol | 500 ml | C(C)(C)(C)O | C4H10O
product | 4-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzamide | CC(C1=CC=CC=C1)N1CC(C1)OC1=CC=C(C(=O)N)C=C1 | C18H20N2O2
